US05958924
3.3. Methyl 6-chloro-1-methyl-1,2-dihydro-4-quinolineacetate
11 ml (147 mmol) of thionyl chloride are added dropwise over approximately 30 minutes to a stirred suspension of 12.5 g (49 mmol) of 6-chloro-1-methyl-2-oxo-1,2-dihydro-4-quinolineacetic acid in 150 ml of methanol. The mixture is stirred for 17 hours at room temperature and the solvent is driven off under vacuum. The residue is dissolved in 400 ml of dichloromethane, and then washed with saturated aqueous sodium bicarbonate solution and then with water. After drying over sodium sulphate, the organic phase is filtered and the filtrate is condensed. 11.16 g of expected product are obtained.

reactant | thionyl chloride | 147 mmol, 11 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-chloro-1-methyl-2-oxo-1,2-dihydro-4-quinolineacetic acid | 49 mmol, 12.5 g | ClC=1C=C2C(=CC(N(C2=CC1)C)=O)CC(=O)O | C12H10ClNO3
reactant | methanol | 150 ml | CO | CH4O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | Methyl 6-chloro-1-methyl-1,2-dihydro-4-quinolineacetate | 11.16 g, Yield=85% | ClC=1C=C2C(=CCN(C2=CC1)C)CC(=O)OC | C13H14ClNO2
